US07405034B2
All reaction steps were carried out with protection from light due to the sensitive nature of the azido group. First, a mixture of NaN3 (300 mg, 4.6 mmol) and methyl pentafluorobenzoate (0.972 g, 4.3 mmol) in acetone (8 mL) and water (3 mL) was refluxed for 8 hours. The mixture was cooled, diluted with 10 mL of water, and then extracted with diethyl ether (3×10 mL). The extract was dried (anhydrous Na2SO4) and evaporated to give methyl 4-azido-2,3,5,6-tetrafluorobenzoate (1.01 g, 94%), as off-white flakes, mp 53.6-54.3° C.

reactant | NaN3 | 4.6 mmol, 300 mg | [N-]=[N+]=[N-].[Na+]
reactant | methyl pentafluorobenzoate | 4.3 mmol, 0.972 g | FC1=C(C(=C(C(=C1C(=O)OC)F)F)F)F | C8H3F5O2
solvent | acetone | 8 mL | CC(=O)C | C3H6O
solvent | water | 3 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | methyl 4-azido-2,3,5,6-tetrafluorobenzoate | 1.01 g, 94% | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C8H3F4N3O2
